10
R0102 1 2 10000
R0304 3 4 10000
R0506 5 6 10000
R0708 7 8 10000
R0904 9 4 1000
R0901 9 1 1000
R1008 10 8 1000
R1005 10 5 1000
Q0402 4 2 0 NPN
Q0103 1 3 0 NPN
Q0806 8 6 0 PNP
Q0507 5 7 0 PNP
I0004 0 4 1 0 0
I0800 8 0 1 0 0
V0900 9 0 0 0 10
V0010 0 10 0 0 10
.AC DEC 100 1 100E9
