10
R0102 1 2 10000
R0304 3 4 10000
R0506 5 6 10000
R0708 7 8 10000
R0904 9 4 1000
R0901 9 1 1000
R1008 10 8 1000
R1005 10 5 1000
Q0402 4 2 0 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18 5e-12 100e-18
Q0103 1 3 0 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18 5e-12 100e-18
Q0806 8 6 0 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18 5e-12 100e-18
Q0507 5 7 0 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18 5e-12 100e-18
I0004 0 4 1 0 0
I0800 8 0 1 0 0
V0900 9 0 0 0 10
V0010 0 10 0 0 10
.AC DEC 100 1 100E9
